US06825189B1
1-(5-Ethynyl-3-pyridyl)-4-tert-butoxycarbonyl-homopiperazine
A mixture of 1-[5-(3-methyl-3-hydroxy-butyn-1-yl)-3-pyridyl]-4-tert-butoxycarbonyl-homopiperazine (0.40 g, 1.1 mmol), sodium hydride 60% (4.5 mg, 0.11 mmol) and toluene (10 ml) was stirred at 110° C. for 3 h. The crude mixture was purified by chromatography on silica gel with ethyl acetate:toluene, (3:1) gave the title compound. Yield 0.13 g, 39%.

reactant | 1-[5-(3-methyl-3-hydroxy-butyn-1-yl)-3-pyridyl]-4-tert-butoxycarbonyl-homopiperazine | 1.1 mmol, 0.40 g | CC(C#CC=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C)(C)O | C20H29N3O3
reactant | sodium hydride | 0.11 mmol, 4.5 mg | [H-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(5-Ethynyl-3-pyridyl)-4-tert-butoxycarbonyl-homopiperazine | C(#C)C=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C17H23N3O2
